US07423159B2
To a mixture of ethyl (4-{[(benzyloxy)carbonyl]amino}phenyl)acetate (15.3 g) and tetrahydrofuran (100 mL) was added dropwise 1 M ethyl magnesium bromide (1 M tetrahydrofuran solution, 500 g) at 0° C. The reaction mixture was stirred at room temperature for 15 hrs. 1N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give benzyl 4-(2-ethyl-2-hydroxybutyl)phenylcarbamate as colorless crystals from a fraction eluted with hexane-ethyl acetate (2:1-1:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals (6.86 g, yield 43%). melting point: 99-100° C.

reactant | ethyl (4-{[(benzyloxy)carbonyl]amino}phenyl)acetate | 15.3 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)CC(=O)OCC | C18H19NO4
reactant | ethyl magnesium bromide | 1 M, 500 g | C(C)[Mg]Br
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | benzyl 4-(2-ethyl-2-hydroxybutyl)phenylcarbamate | C(C)C(CC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O)(CC)O | C20H25NO3
